US08003710B2
Synthesis of Norbornene Carbonyl Chloride
A 500 mL sulfur flask was equipped with magnetic stirring, addition funnel, thermometer, reflux condenser with N2-inlet adapter, and outlet adapter connected to a trap immersed in a dry ice/acetone bath. 58.28 g of 2-norbornene-5-carboxylic acid (Aldrich) were charged to the reactor under a positive flow of nitrogen, then 31.4 mL of thionyl chloride (51.32 g). 450 mL of methyl-tert-butyl ether were added, an ice bath was applied, and the contents of the reactor were stirred to mix and cool to 3° C. 51.6 mL of triethylamine (37.45 g) and 20 mL of MTBE were charged to the addition funnel and added dropwise to keep temperature less than 10° C. On completion of the addition the ice bath was removed and the flask was stirred for one hour. The resulting suspension was filtered to remove triethylamine hydrochloride. The resulting clear yellow solution was reduced to an oil on a rotary evaporator and purified by fractional distillation at 8 mBar (fraction boiling at 62-75° C.). 72% recovery at 99.13% purity was attained. The product was stored in a desiccator at room temperature until use.

reactant | 2-norbornene-5-carboxylic acid | 58.28 g | C12C=CC(C(C1)C(=O)O)C2 | C8H10O2
reactant | thionyl chloride | 31.4 mL, 51.32 g | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 51.6 mL, 37.45 g | C(C)N(CC)CC | C6H15N
reactant | MTBE | 20 mL | CC(C)(C)OC | C5H12O
reactant | methyl-tert-butyl ether | 450 mL | COC(C)(C)C | C5H12O
product | Norbornene Carbonyl Chloride | C12(C=CC(CC1)C2)C(=O)Cl | C8H9ClO
